US08071803B2
To a solution of diisopropylamine (1.90 g, 18.75 mmol) in THF (9 mL) 1.6 M n-BuLi in hexane (10.6 mL, 16.9 mmol) was added with stirring over 20 min at −65° C. The suspension was warmed up to −40° C. and then added via a teflon tube over 20 min to a stirred solution of cyclohexanecarboxylic acid isopropyl ester (2.393 g, 14.1 mmol) in THF (20 mL) at −65° C. The resulting solution was stirred 0.5 h at −65° C., then 1-bromo-2-ethylbutane (3.249 g, 19.68 mmol) in THF (10 mL) was added at −65° C. over 15 min. The solution was stirred 1.5 h at −65° C. and then overnight without a cooling bath while slowly warming up to room temperature. At 5° C. ice-water (15 mL) was added, followed by 2N HCl (30 mL). The organic phase was diluted with ethyl acetate and washed with sat. aq. NaHCO3 and with aq. NaCl. The aqueous phases were extracted with ethyl acetate. The organic phases were combined, dried over sodium sulfate and concentrated. The crude product (3.5 g) was distilled at 55° C. (0.01 mbar) to give 2.9 g (81%) 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid isopropyl ester as a colorless oil, purity 93% (GC area) (cyclohexanecarboxylic acid diisopropylamide as impurity: 0.9% in dist. product and 0.7% in crude product).

reactant | diisopropylamine | 18.75 mmol, 1.90 g | C(C)(C)NC(C)C | C6H15N
reactant | hexane | 16.9 mmol, 10.6 mL | CCCCCC | C6H14
reactant | cyclohexanecarboxylic acid isopropyl ester | 14.1 mmol, 2.393 g | C(C)(C)OC(=O)C1CCCCC1 | C10H18O2
reactant | 1-bromo-2-ethylbutane | 19.68 mmol, 3.249 g | BrCC(CC)CC | C6H13Br
reactant | HCl | 2N, 30 mL | Cl | ClH
solvent | THF | 1.6 M, 9 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid isopropyl ester | 2.9 g, 81% | C(C)(C)OC(=O)C1(CCCCC1)CC(CC)CC | C16H30O2
